US04719221
2,6-Diacetylpyridine bis-(4,4-dimethylthiosemicarbazone)
A mixture of 4,4-dimethylthiosemicarbazide (2.70 g, 0.022 mol) and 2,6-diacetylpyridine (1.63 g, 0.10 mol) in 95% EtOH (45 ml) containing glacial acetic acid (0.5 ml) was heated by a steam bath for 1 h and 10 min and allowed to cool to ambient temperature. The yellow precipitate was collected by filtration, washed with 95% EtOH, and subsequently recrystallized from toluene: yield 2.72 g (73%); mp 215° (dec).

reactant | 4,4-dimethylthiosemicarbazide | 0.022 mol, 2.70 g | CN(C(NN)=S)C | C3H9N3S
reactant | 2,6-diacetylpyridine | 0.10 mol, 1.63 g | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | EtOH | 45 ml | CCO | C2H6O
product | 2,6-Diacetylpyridine bis-(4,4-dimethylthiosemicarbazone) | CN(C(NN=C(C)C1=CC=CC(=N1)C(C)=NNC(=S)N(C)C)=S)C | C15H23N7S2
